US07851640B2
tert-butyl 3-(2-hydroxy-4-methoxyphenyl)-3-oxopropanoate:
Prepared according to above procedure using diisopropylamine (8.0 mL, 58 mmol), nBuLi (34 mL, 1.6 M), tert-butyl acetate (4.7 mL, 35 mmol), methyl 4-methoxysalicylate (1.83 g, 10 mmol) yielding 2.04 g (76%) as white needles. mp=40-42° C.; IR (film) 2978.7; 2936.4; 1731.9; 1633.5; 1357.0; 1129.3 cm−1; 1H NMR (500 MHz, CDCl3) δ 12.42 (s, 1H); 7.57 (d, J=9.0 Hz, 1H); 6.45 (d, J=9.0, 1H); 6.44 (s, 1H); 3.85 (s, 3H); 3.84 (s, 2H); 1.46 (s, 9H); 13C NMR (125 MHz, CDCl3) δ 197.1, 166.7, 166.6, 165.9, 132.3, 113.5, 108.3, 101.2, 82.5, 55.9, 47.2, 28.2; LRMS (electrospray): Mass calculated for C14H18O5, [M]+, 266.12. Found [M+23]+, 289.5.

reactant | diisopropylamine | 58 mmol, 8.0 mL | C(C)(C)NC(C)C | C6H15N
reactant | nBuLi | 1.6 M, 34 mL | [Li]CCCC
reactant | tert-butyl acetate | 35 mmol, 4.7 mL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | methyl 4-methoxysalicylate | 10 mmol, 1.83 g | COC=1C=C(C(C(=O)OC)=CC1)O | C9H10O4
product | tert-butyl 3-(2-hydroxy-4-methoxyphenyl)-3-oxopropanoate | OC1=C(C=CC(=C1)OC)C(CC(=O)OC(C)(C)C)=O | C14H18O5
